US05243110
201.5 g of 28% strength aqueous sodium hydroxide and 2.0 g of dimethyllaurylbenzylammonium chloride were added to a solution of 250 g of 1,1-bis(chlorophenyl)-2,2,2-trichloroethane in 100 g of monochlorobenzene at 50° C. The mixture was heated at reflux (90° C.) for 20 hours. The organic phase was separated by phase separation and was washed three times with 100 g of water. After distillation of the monochlorobenzene, 219.3 g of 1,1-bis(chlorophenyl)-2,2-dichloroethylene were obtained (y=97.8%) with 0.10% of 1,1-bis(chlorophenyl)-2,2,2-trichloroethane.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyllaurylbenzylammonium chloride | 2.0 g | [Cl-].CC(CCCCCCCCCCC[NH2+]CC1=CC=CC=C1)C
reactant | 1,1-bis(chlorophenyl)-2,2,2-trichloroethane | 250 g | ClC1=C(C=CC=C1)C(C(Cl)(Cl)Cl)C1=C(C=CC=C1)Cl | C14H9Cl5
solvent | monochlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | 1,1-bis(chlorophenyl)-2,2-dichloroethylene | 219.3 g | ClC1=C(C=CC=C1)C(=C(Cl)Cl)C1=C(C=CC=C1)Cl | C14H8Cl4
